US06057335
Preparation of 3-(2-indanyl)carbonylamino-5-(3-vinylphenyl)pyrazole
The title compound was prepared in the same manner as that described in Example 33 except that 5-(4-bromophenyl)-3-(2-indanyl)carbonylaminopyrazole used in Example 33 was replaced with 5-(3-bromophenyl)-3-(2-indanyl)carbonylaminopyrazole.

reactant | 5-(4-bromophenyl)-3-(2-indanyl)carbonylaminopyrazole | BrC1=CC=C(C=C1)C1=CC(=NN1)NC(=O)C1CC2=CC=CC=C2C1 | C19H16BrN3O
reactant | 5-(3-bromophenyl)-3-(2-indanyl)carbonylaminopyrazole | BrC=1C=C(C=CC1)C1=CC(=NN1)NC(=O)C1CC2=CC=CC=C2C1 | C19H16BrN3O
product | 3-(2-indanyl)carbonylamino-5-(3-vinylphenyl)pyrazole | C1C(CC2=CC=CC=C12)C(=O)NC1=NNC(=C1)C1=CC(=CC=C1)C=C | C21H19N3O
